2123-04-18 01:35:00 Physician Resident Progress Note
Chief Complaint: STEMI/VFIB ARREST.
   24 Hour Events:
   HISTORY OF PRESENTING ILLNESS: 51 yo man no known medical history was
   noticed to be driving erratically earlier this morning in NH and
   ultimately suffered an unrestrained MVA crashing his car into a tree.
   Did not appear to EMS to be traumatic arrest. Found apneic and
   pulseless in VF, with downtime of minutes before CPR initiated with
   EMS. Shocked 3x, epinephrine x2,atropine x1, lidocaine 2g IV then taken
   to [**Hospital3 **] Center in NH, then to [**University/College 2158**]. On arrival to the
   [**Hospital1 5**] ED he had a GCS of 7, unconscious. Initial CE were CK: 1694
   Trop-T: 4.11 and have EKG changes consistent with STEMI. He was loaded
   with [**Last Name (LF) 12105**],[**First Name3 (LF) **], integrillin, and started on heparin drip.  Within 3
   hours of his arrest he hit the cath lab and was found to have total
   occlusion of the LAD proximally with BMS placed to the ostium of the
   LAD. There was also 30% distal RCA lesion, minimal Lcx disease. He
   underwent LHC with L ventriculograpy and coronary angiography which
   noted proximal TO of LAD. A BMS was placed.
   On leaving the cath lab he was found to be hypertensive and was started
   on nitro gtt, and NGT was placed, and transferred to the CCU.
   On arrival to the CCU he was hemodynamically stable. A repeat EKG at
   that time showed improvement in his ST elevation post
   revascularization. He was weaned off nitro GTT, continued on [**First Name3 (LF) 12105**] and
   heparin GTT.
   .
   .
   PAST MEDICAL HISTORY:
   psoriasis
   cholecystectomy
   .
   MEDICATIONS:
   unknown
   .
   ALLERGIES:
   unknown
   .
   SOCIAL HISTORY: works as an accountant, lives in [**Location **]. Occassional EtOH.
   Quit smoking several years ago.
   .
   FAMILY HISTORY: father died of massive MI at age 47. Mother with
   ?mitral valve prolapse died at age 79 (about three months ago).
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2123-4-17**] 11:16 PM
   Midazolam (Versed) - [**2123-4-17**] 11:28 PM
   Vecuronium - [**2123-4-18**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-18**] 01:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 35.4
C (95.7
   Tcurrent: 34.6
C (94.3
   HR: 79 (79 - 109) bpm
   BP: 93/77(84) {93/77(-29) - 93/77(84)} mmHg
   RR: 25 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,478 mL
                                                                  1,687 mL
   PO:
             TF:
   IVF:
                                                                  2,478 mL
                                                                  1,687 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                     50 mL
   Urine:
                                                                    900 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,578 mL
                                                                  1,637 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.19/37/183/13/-13
   Ve: 13.6 L/min
   PaO2 / FiO2: 261
   Physical Examination
   Wt: 250 pounds,height 73
   Vitals: T , BP 139/101, HR 109
   General:comatose prior to sedation,
   intubated
   HEENT:
   Pupils sluggish, equal round, sluggish but react to light, constricting
   from 6mm to 3mm, reflexes mute, babinski's flat, does not withdraw from
   painful stimuli,or respond to voice or sound.
   Neck:neck brace in place, unable to assess JVP
   Chest: ventilated breath sounds, clear anteriorly
   Heart: Distant heart sounds, RRR, no MRG, s1/s2 clear
   Abdomen:+bs, soft, nt, nd, no masses
   Extremities:R groin cath access site c/d/i/no bruit, no hematoma
   Ext: mottled/purplish extremities, slow cap refill, DP/PT pulses
   dopplerable.
   .
   .
   Labs / Radiology
   289 K/uL
   15.6 g/dL
   290 mg/dL
   1.5 mg/dL
   13 mEq/L
   4.4 mEq/L
   24 mg/dL
   108 mEq/L
   134 mEq/L
   47.2 %
   21.4 K/uL
        [image002.jpg]
                             [**2123-4-17**]  05:30 PM
                             [**2123-4-17**]  07:21 PM
                             [**2123-4-17**]  08:41 PM
                             [**2123-4-18**]  12:14 AM
                             [**2123-4-18**]  12:24 AM
   WBC
   26.6
   21.4
   Hct
   50.3
   47.2
   Plt
   286
   289
   Cr
   1.7
   1.5
   TCO2
   18
   14
   15
   Glucose
   390
   290
   Other labs: PT / PTT / INR:11.8/25.8/1.0, CK / CKMB /
   Troponin-T:7590//, Differential-Neuts:87.4 %, Lymph:6.5 %, Mono:5.3 %,
   Eos:0.5 %, Lactic Acid:2.9 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   LABS/STUDIES:
   An initial gas showed an O2 of 81 and he was placed on PEEP 12, F102
   100% with improvement in his BP to the 90s.
   Iniital labs were WBC: 23.6 , K6.5, lactate 5.1 with anion gap 17,
   dirty UA, Utox positive for opiates/amphetamines.
   .
   EKG at 0SH: 10:38: HR in 120s, LAD,LAFB depressions related to IVCD,
   SVT, sinus with ST elevation I,aVL, q waves ST elevation V2 to V5.
   over the EKGs the QRS seems to widen but that may just be because of
   the ST elevations. Overall ST elevations become more prominent as do
   the q waves. Following reperfusion, ST elevations less prominent, QRS
   narrowed, axis normalized, bbb gone.
   .
   Imaging:
   CXR: ETT tube terminates 4.3 cm above
   NGT tip in stomach.
   Thyroid appears nodular
   signif dependent edema portion of lower lobe concerning for acute
   aspiration
   No PTX
   No other parenchymal damage
   Periseptal thickening- from IVF resuccicitation
   no effusions
   Aorta normal, no acute injury
   scattered lymphnodes, non pathological
   .
   CT abdomen with contrast
   15mm hypodensity in left hepatic lobe.
   No evidence of solid organ injury.
   Spleen, colon, pancreas, kidn
   no free fluid, perfusion
   moderate diverticulosis, none acute.
   .
   CT spine:
    1. No acute cervical fracture or malalignment. Moderate multilevel
   degenerative disease with osteophytes may increase risk of spinal cord
   injury.
   2. Aspiration in the bilateral lung apices
   Assessment and Plan
 CARDIAC ARREST
   ASSESSMENT AND PLAN: 51 y/o male with hx of cholecystecomy/psoriasis
   who suffered STEMI in field with VF arrest found to have TO LAD, s/p
   reperfusion with BMS to LAD.
   .
   # STEMI s/p VF arrest.
   - s/p cath with BMS to LAD
   - on [**Year (4 digits) 119**],heparin IV, atorvastatin, integrillin, Plavix (consider
   increasing Plavix to 75 [**Hospital1 **])
   - cooling protocol x24 hours
   - sedation with Fentanyl/versed
   holding metoprolol/ace given borderline Hypotension
   - EEG for 48 hours per protocol (discussed with neuro and [**First Name4 (NamePattern1) 92**] [**Last Name (NamePattern1) **])
   - keep pCO2 between 35-40
   -trend CE.
   .
   Pump: s/p TO LAD >3 hours, with infarcted myocardium.
   Poor forward flow as indicated by renal failure: FENA 0.2
   IVF for preload
   check echo s/p warming.
   .
   Rythm: V fib arrested in field.
   Currently in sinus
   continue amniodorone
   continue telemetry
   q4-6 labs with repletions during cooling.
   Judicious repletions during warming as electrolytes tend to go
   extracellular with warming.
   .
   # Metabolic Acidosis: Tox screen negative for ethanol.
   Lactic acid elevated. No known hx DM but hyperglycemic
   -check UA for ketones
   -IVF to close anion gap
   -q 4-6 labs
   .
   #s/p trauma
   CT spine/torso negative except for aspiration.
   NGT draining cool aide colored secretion- IV PPI.
   neck brace in place.
   appreciate surgery recs
   .
   #Leukocytosis: ? stress response. aspiration ? Positive UA
   -F/u urine cx.
   .
   Bowel reg
   FEN: NPO
   Will need tube feeds if NPO >48 hours
   GFS/SS
   .
   Status: Full Code
   Dispo: CCU for now
   # Communication:
   - sister and HCP [**Name (NI) 12106**] [**Telephone/Fax (1) 12107**]
   - best friend [**Name (NI) **] [**0-0-**] (home)
   - cousin [**Name (NI) 107**] [**Name (NI) 12108**] [**Telephone/Fax (1) 12109**]
   ICU Care
   Nutrition: Bowel reg
   FEN: NPO
   Will need tube feeds if NPO >48 hours
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-4-17**] 04:42 PM
   18 Gauge - [**2123-4-17**] 04:45 PM
   Arterial Line - [**2123-4-17**] 11:43 PM
   GFS/SS
   .
   Status: Full Code
   Dispo: CCU for now
   # Communication:
   - sister and HCP [**Name (NI) 12106**] [**Telephone/Fax (1) 12107**]
   - best friend [**Name (NI) **] [**0-0-**] (home)
   - cousin [**Name (NI) 107**] [**Name (NI) 12108**] [**Telephone/Fax (1) 12109**]

2123-04-18 07:15:00 Physician Resident Progress Note
Chief Complaint:
   He initially lost his DP/PT in his left leg, and warming blankets were
   placed peripherally with recovery of his pulse
    overnight he received 4L IVF with  improvement of his lactate from 5.1
   to 2.7 closing of his anion gap with UOP 30-40cc/hr maintaing BPs with
   MAPs in the 80s. Around 6:30pm his maps dropped to the high 50
s, his
   UOP trailed off, amnio off, sedation decreased, fluids wide open,
   dobutamine was started peripherally and a central line was placed.
   He was shivering significantly with subsequent warming, initially got
   vecuronium boluses x 2 then started on vecuronium drip.
   His GFS ranged 300s to 400s with humalog given, and was started on an
   insulin drip this am.
   On Telemetry  he was in sinus with PVCs.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2123-4-17**] 03:52 PM
 NASAL SWAB - At [**2123-4-17**] 07:56 PM
   mrsa swab
 URINE CULTURE - At [**2123-4-17**] 10:44 PM
 ARTERIAL LINE - START [**2123-4-17**] 11:43 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 1,250 units/hour
   Amiodarone - 0.5 mg/min
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2123-4-17**] 11:28 PM
   Vecuronium - [**2123-4-18**] 12:16 AM
   Fentanyl - [**2123-4-18**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 35.4
C (95.7
   Tcurrent: 33.7
C (92.7
   HR: 69 (62 - 109) bpm
   BP: 67/56(62) {67/56(-29) - 100/78(88)} mmHg
   RR: 28 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,478 mL
                                                                  3,258 mL
   PO:
             TF:
   IVF:
                                                                  2,478 mL
                                                                  3,258 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    285 mL
   Urine:
                                                                    900 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,578 mL
                                                                  2,973 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 36.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.22/33/151/13/-13
   Ve: 13.4 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Wt: 250 pounds,height 73
   Vitals: T , BP 139/101, HR 109
   General:int
   intubated
   HEENT:
   Pupils sluggish, equal round, sluggish but react to light, constricting
   from 6mm to 3mm, reflexes mute, babinski's flat, does not withdraw from
   painful stimuli,or respond to voice or sound.
   Neck:neck brace in place, unable to assess JVP
   Chest: ventilated breath sounds, clear anteriorly
   Heart: Distant heart sounds, RRR, no MRG, s1/s2 clear
   Abdomen:+bs, soft, nt, nd, no masses
   Extremities:R groin cath access site c/d/i/no bruit, no hematoma
   Ext: mottled/purplish extremities,  (warm with assistance of warming
   blankets, slow cap refill, DP/PT pulses dopplerable, weak in Left lower
   extremities
   Labs / Radiology
   234 K/uL
   15.6 g/dL
   290 mg/dL
   1.5 mg/dL
   13 mEq/L
   4.8 mEq/L
   25 mg/dL
   108 mEq/L
   134 mEq/L
   45.4 %
   21.4 K/uL
        [image002.jpg]
                             [**2123-4-17**]  05:30 PM
                             [**2123-4-17**]  07:21 PM
                             [**2123-4-17**]  08:41 PM
                             [**2123-4-18**]  12:14 AM
                             [**2123-4-18**]  12:24 AM
                             [**2123-4-18**]  01:33 AM
                             [**2123-4-18**]  05:24 AM
                             [**2123-4-18**]  05:52 AM
   WBC
   26.6
   21.4
   Hct
   50.3
   47.2
   45.4
   Plt
   286
   289
   234
   Cr
   1.7
   1.5
   1.5
   TCO2
   18
   14
   15
   14
   14
   Glucose
   390
   290
   Other labs: PT / PTT / INR:11.8/25.8/1.0, CK / CKMB /
   Troponin-T:7590//, Differential-Neuts:87.4 %, Lymph:6.5 %, Mono:5.3 %,
   Eos:0.5 %, Lactic Acid:2.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 KNOWLEDGE DEFICIT
 HYPERGLYCEMIA
 CARDIAC ARREST
   ASSESSMENT AND PLAN: 51 y/o male with hx of cholecystecomy/psoriasis
   who suffered STEMI in field with VF arrest found to have TO LAD, s/p
   reperfusion with BMS to LAD.
   .
   Hypotension:
   s/p arrest, no echo as of yet, pump function is unclear.
   [**Name2 (NI) **]  stent thrombosis a possibility, with valvular compromise
   -check EKG, stat ECHO
    -continue dobutamine until has central line may also consider
   dopamine, both have more ionotrope effects than vasoconstrictorry, wean
   when tolerated
   -IVF wide open
   # STEMI s/p VF arrest.
   - s/p cath with BMS to LAD
   - on ASA,heparin IV, atorvastatin, integrillin, Plavix (consider
   increasing Plavix to 75 [**Hospital1 **])
   - cooling protocol x24 hours
   - sedation with Fentanyl/versed
   holding metoprolol/ace given borderline Hypotension
   - EEG for 48 hours per protocol (discussed with neuro and [**First Name4 (NamePattern1) 92**] [**Last Name (NamePattern1) **])
   - keep pCO2 between 35-40
   -trend CE.
   .
   Pump: s/p TO LAD >3 hours, with infarcted myocardium.
   Poor forward flow as indicated by renal failure: FENA 0.2
   IVF for preload
   check echo s/p warming.
   .
   Rythm: V fib arrested in field.
   Currently in sinus
   continue amniodorone
   continue telemetry
   q4-6 labs with repletions during cooling.
   Judicious repletions during warming as electrolytes tend to go
   extracellular with warming.
   .
   # Metabolic Acidosis: Tox screen negative for ethanol.
   Lactic acid elevated. No known hx DM but hyperglycemic
   -check UA for ketones
   -IVF to close anion gap
   -q 4-6 labs
   .
   #s/p trauma
   CT spine/torso negative except for aspiration.
   NGT draining cool aide colored secretion- switch from lansoprazole to
   IV PPI
   neck brace removed by surgery this am, signed off. .
   .
   #Leukocytosis: ? stress response. aspiration ? Positive UA
   -F/u urine cx.
   .
   Bowel reg
   FEN: NPO
   Will need tube feeds if NPO >48 hours
   GFS/SS
   .
   Status: Full Code
   Dispo: CCU for now
   # Communication:
   - sister and HCP [**Name (NI) 12106**] [**Telephone/Fax (1) 12107**]
   - best friend [**Name (NI) **] [**0-0-**] (home)
   - cousin [**Name (NI) 107**] [**Name (NI) 12108**] [**Telephone/Fax (1) 12109**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-4-17**] 04:42 PM
   18 Gauge - [**2123-4-17**] 04:45 PM
   Arterial Line - [**2123-4-17**] 11:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**Last Name (STitle) 12053**] delineated in her note
   on [**2123-4-18**].
   History and Physical.   I concur with the findings delineated in the
   history and physical examination.  I concur with the treatment plan
   outlined above.
   Medical Decision Making.  Mr. [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] is a 51 year old man who suffered
   a large AWMI s/p LAD stent to the proximal LAD complicated by
   cardiogenic shock.   He had a episode of hypotension this AM that
   responded to fluids.  He is undergoing cooling therapy for cerebral
   hypoperfusion.  His LVEF is severely depressed due to the AWMI.  We
   will continue supportive care for his AWMI and monitor for recovery of
   his LV function.  He may required Warfarin for his large AWMI.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2123-4-18**] 12:35 ------

2123-04-19 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2123-4-18**] 02:59 PM
 ARTERIAL LINE - STOP [**2123-4-18**] 10:40 PM
 SPUTUM CULTURE - At [**2123-4-18**] 11:57 PM
   Overnight Events:
   - had large amt of old blood from NGT
   - bleeding a lot from lines, NGT, etc; elevated fibrinogen on labs
   - started IV PPI [**Hospital1 **]
   - a-line came out
   - cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Dobutamine - 4 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-4-18**] 10:09 PM
   Fentanyl - [**2123-4-19**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-19**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 34.5
C (94.1
   Tcurrent: 34.5
C (94.1
   HR: 107 (65 - 109) bpm
   BP: 96/62(70) {86/54(60) - 101/72(79)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 13 (11 - 19)mmHg
   Total In:
                                                                  6,293 mL
                                                                    444 mL
   PO:
   TF:
   IVF:
                                                                  6,213 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  1,439 mL
                                                                    365 mL
   Urine:
                                                                    839 mL
                                                                    215 mL
   NG:
                                                                    600 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  4,854 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 28
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 43.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/34/86/20/-6
   Ve: 12.7 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General:intubated
   HEENT:
   Pupils sluggish, equal round, sluggish but react to light, constricting
   from 6mm to 3mm, reflexes mute, babinski's flat, does not withdraw from
   painful stimuli,or respond to voice or sound.
   Neck:neck brace in place, unable to assess JVP
   Chest: ventilated breath sounds, clear anteriorly
   Heart: Distant heart sounds, RRR, no MRG, s1/s2 clear
   Abdomen:+bs, soft, nt, nd, no masses
   Extremities:R groin cath access site c/d/i/no bruit, no hematoma
   Ext: mottled/purplish extremities,  (warm with assistance of warming
   blankets, slow cap refill, DP/PT pulses dopplerable, weak in Left lower
   extremities
   Labs / Radiology
   207 K/uL
   13.8 g/dL
   108 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.8 mEq/L
   29 mg/dL
   109 mEq/L
   137 mEq/L
   40.8 %
   14.3 K/uL
                             [**2123-4-18**]  05:24 AM
                             [**2123-4-18**]  05:52 AM
                             [**2123-4-18**]  07:00 AM
                             [**2123-4-18**]  08:20 AM
                             [**2123-4-18**]  10:16 AM
                             [**2123-4-18**]  02:58 PM
                             [**2123-4-18**]  09:23 PM
                             [**2123-4-18**]  11:59 PM
                             [**2123-4-19**]  12:36 AM
                             [**2123-4-19**]  04:55 AM
   WBC
   19.8
   17.3
   14.3
   Hct
   45.4
   47.6
   41.5
   44.3
   43.6
   43.0
   40.8
   Plt
   [**Telephone/Fax (3) 12131**]07
   Cr
   1.5
   1.6
   1.5
   1.6
   TropT
   12.34
   9.28
   TCO2
   14
   14
   19
   Glucose
   182
   102
   108
   Other labs: PT / PTT / INR:12.4/26.1/1.0, CK / CKMB /
   Troponin-T:1528//9.28, Differential-Neuts:87.1 %, Lymph:7.0 %, Mono:5.4
   %, Eos:0.3 %, Fibrinogen:637 mg/dL, Lactic Acid:1.5 mmol/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   51 y/o male with hx of cholecystecomy/psoriasis who suffered STEMI in
   field with VF arrest found to have TO LAD, s/p reperfusion with BMS to
   LAD.
   .
   Hypotension:
   s/p arrest, no echo as of yet, pump function is unclear.
   [**Name2 (NI) **]  stent thrombosis a possibility, with valvular compromise
   -check EKG, stat ECHO
    -continue dobutamine until has central line may also consider
   dopamine, both have more ionotrope effects than vasoconstrictorry, wean
   when tolerated
   -IVF wide open
   # STEMI s/p VF arrest.
   - s/p cath with BMS to LAD
   - on ASA,heparin IV, atorvastatin, integrillin, Plavix (consider
   increasing Plavix to 75 [**Hospital1 **])
   - cooling protocol x24 hours
   - sedation with Fentanyl/versed
   holding metoprolol/ace given borderline Hypotension
   - EEG for 48 hours per protocol (discussed with neuro and [**First Name4 (NamePattern1) 92**] [**Last Name (NamePattern1) **])
   - keep pCO2 between 35-40
   -trend CE.
   .
   Pump: s/p TO LAD >3 hours, with infarcted myocardium.
   Poor forward flow as indicated by renal failure: FENA 0.2
   IVF for preload
   check echo s/p warming.
   .
   Rythm: V fib arrested in field.
   Currently in sinus
   continue amniodorone
   continue telemetry
   q4-6 labs with repletions during cooling.
   Judicious repletions during warming as electrolytes tend to go
   extracellular with warming.
   .
   # Metabolic Acidosis: Tox screen negative for ethanol.
   Lactic acid elevated. No known hx DM but hyperglycemic
   -check UA for ketones
   -IVF to close anion gap
   -q 4-6 labs
   .
   #s/p trauma
   CT spine/torso negative except for aspiration.
   NGT draining cool aide colored secretion- switch from lansoprazole to
   IV PPI
   neck brace removed by surgery this am, signed off. .
   .
   #Leukocytosis: ? stress response. aspiration ? Positive UA
   -F/u urine cx.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2123-4-17**] 04:42 PM
   18 Gauge - [**2123-4-17**] 04:45 PM
   Multi Lumen - [**2123-4-18**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-04-20 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-4-19**] 01:13 PM
   Overnight Events:
   - Extubated.
   - Dobutamine weaned off
   - converted amiodarone to PO
   - Initial concern for RUE weakness, resolved. No collar placed for now.
   - echo showed EF 20-25% (The left atrium is normal in size. There is
   mild symmetric left ventricular hypertrophy. The left ventricular
   cavity is moderately dilated. Overall left ventricular systolic
   function is severely depressed (LVEF= 20-25 %) with global hypokinesis.
   No masses or thrombi are seen in the left ventricle. There is no
   ventricular septal defect. There is no aortic valve stenosis. No aortic
   regurgitation is seen. Trivial mitral regurgitation is seen. The
   pulmonary artery systolic pressure could not be determined. There is a
   trivial/physiologic pericardial effusion.)
   - HR 110 with BP 120s/80. Gave metoprolol 12.5 mg PO x 1.
   - 11 p.m., patient with decreasing oxygen saturations, increasing
   respiratory distress. CXR showed extensive bilateral opacities. Treated
   with Lasix, morphine, nitro, oxygen, and positioning. Diuresed well
   with improvement in sats.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.57 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2123-4-20**] 03:23 AM
   Morphine Sulfate - [**2123-4-20**] 04:30 AM
   Furosemide (Lasix) - [**2123-4-20**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-20**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 100 (94 - 112) bpm
   BP: 116/72(81) {92/64(70) - 139/98(107)} mmHg
   RR: 23 (10 - 42) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 12 (10 - 19)mmHg
   Total In:
                                                                    991 mL
                                                                    114 mL
   PO:
   TF:
   IVF:
                                                                    991 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                  2,610 mL
   Urine:
                                                                    980 mL
                                                                  2,610 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -139 mL
                                                                 -2,496 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 480) mL
   Vt (Spontaneous): 820 (640 - 820) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.40/31/80.[**Numeric Identifier 20**]/24/-3
   Ve: 19.3 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General: Alert, NAD; Oriented to person and year (not to location or
   date); Able to move all 4 extremities on command
   HEENT: NC/AT; PERRL
   RESP: Rhonchorous BS; some crackles bilaterally.
   CV: Distant heart sounds, RRR; No m/r/g appreciated
   ABD: S/NT/ND; BS present
   EXT: Cool extremities
   Labs / Radiology
   222 K/uL
   14.1 g/dL
   102 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.0 mEq/L
   31 mg/dL
   106 mEq/L
   140 mEq/L
   42.1 %
   15.8 K/uL
        [image002.jpg]
                             [**2123-4-18**]  10:16 AM
                             [**2123-4-18**]  02:58 PM
                             [**2123-4-18**]  09:23 PM
                             [**2123-4-18**]  11:59 PM
                             [**2123-4-19**]  12:36 AM
                             [**2123-4-19**]  04:55 AM
                             [**2123-4-19**]  11:34 AM
                             [**2123-4-19**]  03:14 PM
                             [**2123-4-19**]  03:25 PM
                             [**2123-4-20**]  12:56 AM
   WBC
   17.3
   14.3
   15.8
   Hct
   41.5
   44.3
   43.6
   43.0
   40.8
   38.7
   42.1
   Plt
   230
   207
   222
   Cr
   1.5
   1.6
   1.4
   TropT
   9.28
   7.78
   5.22
   TCO2
   19
   22
   20
   Glucose
   102
   108
   102
   Other labs: PT / PTT / INR:12.8/25.5/1.1, CK / CKMB /
   Troponin-T:1220/50/5.22, Differential-Neuts:87.1 %, Lymph:7.0 %,
   Mono:5.4 %, Eos:0.3 %, Fibrinogen:637 mg/dL, Lactic Acid:2.0 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   51 y/o male with hx of cholecystecomy/psoriasis who suffered STEMI in
   field with VF arrest found to have TO LAD, s/p reperfusion with BMS to
   LAD.
   .
   # Respiratory Distress: Pt developed resp distress overnight. CXR
   showed pulmonary edema. Etiology of pt
s flash pulmonary edema not
   entirely clear, possibly he developed transient hypertension overnight.
   S/p lasix bolus x 2 and nitro gtt. Pt put out good urine to lasix gtt.
   Was initially on BiPAP but was able to be weaned down.
   - continue to monitor fluid status
   - BiPAP if needed to maintain respiratory status
   .
   # STEMI s/p VF arrest: Pt is now s/p cooling/rewarming. Pt is s/p cath
   with BMS to LAD.
   - continue ASA, atorvastatin, Plavix
   - starting metoprolol tartrate TID
   - holding ACE in the setting of borderline hypotension
   - f/u neuro recs, per cooling protocol
   - coumdin with heparin bridge [**3-2**] apical akinesis
   - pt now off of pressors; will continue to monitor blood pressure
   .
   # Rythm: V fib arrested in field. Currently in sinus
   - IV amio load completed, switching to PO
   - continue telemetry
   .
   # S/p Trauma -CT spine/torso negative except for aspiration; however,
   neuro had been worried that pt could have c-spine trauma.  However, now
   pt moving all 4 extremities spontaneously.
   - continue to monitor neuro exam
   .
   # Hematocrit Drop: Pt with bloody fluid in NGT initially. Crit had
   dropped form 50
s to 40. Hct now stable.
   - continue to trend hematocrit
   - maintain active T&S
   - transfuse for Hct<30
   .
   #Leukocytosis: Likely stress response. Continue to trend.
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   20 Gauge - [**2123-4-17**] 04:42 PM
   Multi Lumen - [**2123-4-18**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7300**].
   I would add the following remarks:
   History
   Had episode of flash pulmonary edema yesterday with significant bilat
   infiltrates on CXR.  Responded to lasix IV with >2.5 L diuresis and
   better this AM.  BP 92/60.
   EF 25% on echo.
   Physical Examination
   somewhat disoriented and confused but conversant
   no murmurs
   Medical Decision Making
   With large MI, will start coumadin with heparin bridge.
   Will discontinue Amio.
   Will need reeval in 6 wks for possible AICD.
   BB being titrated.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 4841**], MD
   on:[**2123-4-20**] 02:04 PM ------

2123-04-21 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Acutely tachypneic with coarse crackles on auscultation. CXR showed
   fluffy bilateral infiltrates. Low grade temp noted. ABG showed marked
   alkalosis?
   -Started him on vanc/cefepime/flagyl + Ipratropium neb
   -Agitated requiring ativan x3 since yesterday.
   -Morphine for sedation + tachypnea
   Allergies:
   Peanut
   Unknown;
   Sulfur
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-4-20**] 09:04 PM
   Metronidazole - [**2123-4-20**] 09:05 PM
   Cefipime - [**2123-4-21**] 12:50 AM
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-4-20**] 08:16 AM
   Lorazepam (Ativan) - [**2123-4-21**] 12:49 AM
   Morphine Sulfate - [**2123-4-21**] 02:00 AM
   Metoprolol - [**2123-4-21**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-21**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 101 (91 - 108) bpm
   BP: 102/57(68) {96/52(62) - 138/89(96)} mmHg
   RR: 49 (20 - 49) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.3 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 14 (7 - 264)mmHg
   Total In:
                                                                  1,501 mL
                                                                    564 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  1,101 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                  8,010 mL
                                                                    550 mL
   Urine:
                                                                  8,010 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,509 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 856 (856 - 856) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.52/33/96.[**Numeric Identifier 7**]/27/3
   Ve: 18.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Labs / Radiology
   197 K/uL
   13.8 g/dL
   111 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   29 mg/dL
   102 mEq/L
   140 mEq/L
   40.8 %
   15.4 K/uL
        [image002.jpg]
                             [**2123-4-19**]  12:36 AM
                             [**2123-4-19**]  04:55 AM
                             [**2123-4-19**]  11:34 AM
                             [**2123-4-19**]  03:14 PM
                             [**2123-4-19**]  03:25 PM
                             [**2123-4-20**]  12:56 AM
                             [**2123-4-20**]  01:56 PM
                             [**2123-4-20**]  04:56 PM
                             [**2123-4-21**]  01:11 AM
                             [**2123-4-21**]  03:14 AM
   WBC
   14.3
   15.8
   15.4
   Hct
   40.8
   38.7
   42.1
   40.8
   Plt
   [**Telephone/Fax (3) 12166**]
   Cr
   1.6
   1.4
   1.4
   1.2
   TropT
   7.78
   5.22
   TCO2
   19
   22
   20
   30
   28
   Glucose
   108
   102
   99
   111
   Other labs: PT / PTT / INR:13.4/41.4/1.1, CK / CKMB /
   Troponin-T:1220/50/5.22, Differential-Neuts:87.1 %, Lymph:7.0 %,
   Mono:5.4 %, Eos:0.3 %, Fibrinogen:637 mg/dL, Lactic Acid:1.7 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**4-20**] 3:30PM
   CXR ([**4-20**]) Severe infiltrative pulmonary abnormality has improved in
   the right upper lobe, remained relatively stable elsewhere. This may
   well represent pulmonary edema, but a component of hemorrhage or
   aspiration pneumonia is impossible to assess. Mild cardiomegaly is
   stable. Mediastinal vascular engorgement is mild and unchanged. Right
   jugular line ends at or just below the superior cavoatrial junction. No
   pneumothorax.
   CXR ([**4-21**]) to be done
   Microbiology: MRSA negative
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 KNOWLEDGE DEFICIT
 HYPERGLYCEMIA
 CARDIAC ARREST
   # Respiratory distress: CXR concerning for ARDS. cause not clear but
   occurred in the setting of low grade fever and good diuresis.
   ?aspiration pneumonia or ventilator associated pneumonia, or pulm
   hemorrhage. Currently being treated with vanc/cefepime/flagyl. Nitro
   was weaned off earlier. Lasix is being held.
   -Check LFTs/Lipase/Consider HIV test, ? immunosuppression.
   - Cont antibiotics
   - Repeat CXR
   - Monitor I/O off lasix
   - ABG to repeat
   - Monitor O2 sats
   - Cont bipap
   - Await blood culture
   .
   # Coronaries: STEMI with VF arrest. Found to have TO of LAD on cath.
   s/p BMS. s/p 24hr cooling protocol. Cardiac enzyme peaked 3d ago and
   coming down.
   - cont aspirin, clopidogrel, statin, metoprolol, consider adding ACE.
   - d/c Trend CE.
   .
   # Pump: s/p TO LAD >3 hours, with infarcted myocardium. Echo post
   cooling protocol reveals LVEF 20-25% with global hypokinesis. Currently
   BP stable without pressors or dilators. Started him on metoprolol 25
   TID for BP, heparin and coumadin for LV hypokinesis.
   - Cont heparin and coumadin
   - Check coags
   .
   # Rhythm: V fib arrested in field. Currently in sinus rhythm, PR in
   90-100s most of the time. seems to improve with metoprolol.
   - Hold betablockade, tachycardia may be [**3-2**] physiologic demand..
   - continue telemetry.
   .
   # Agitation: Being managed by ativan, morphine.
   .
   # Neuro: Follows commands well but poorly oriented. Pt is being seen by
   neuro team.
   -Per neuro, can suffer biparietal hypoperfusion periarrest leading to
   agitation,
    Neuro recs MRI brain with DWI or ADC when pt is stable, and
   - Give 2 weeks to determine prognosis of anterograde  amnesia.
   .consider Haldol if needed, check QTC.
   .
   # s/p trauma: CT spine/torso negative except for aspiration. On PPI due
   to NGT draining old blood yesterday. Neuro recs neck collar or neck MRI
   to ensure neck stability.
   - Continue PPI
   .
   ICU Care
   Nutrition:
   Comments: Reg cardiac healthy diet (speech/swallow therapist recommends
   supervision).
   Glycemic Control:  Insulin Sliding Scale + Hypoglycemia protocol
   Lines:  RIJ + perpheral x1
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   GI: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments: - sister and HCP [**Name (NI) 12106**] [**Telephone/Fax (1) 12107**]
   - best friend [**Name (NI) **] [**0-0-**] (home)
   - cousin [**Name (NI) 107**] [**Name (NI) 12108**] [**Telephone/Fax (1) 12109**]
   Code status: Full code
   Disposition:CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On [**2123-4-21**] I saw, examined and was physically present with the resident
   / fellow for the key portions of the services provided. I agree with
   the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Last Name (NamePattern1) 4235**], MD
   on:[**2123-4-22**] 19:03 ------

2123-04-22 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Overnight Events:
   - increased statin to full dose
   - started lisinopril 5 mg
   - increased vanc dose, per pharm recs
   - LFT's were elevated - ?related to post-MI, will trend
   - replaced foley and attempted diuresis (gave 40 mg IV lasix in
   afternoon)
   - got haldol 1mg x 3 for agitation
   - during 3rd agitation episode, pt did not respond to haldol -> got ECG
   (unchanged), gave morphine 2 mg, gave lasix 60 mg IV, started BiPAP
   - sputum cx:  STAPH AUREUS COAG +, GRAM NEGATIVE ROD(S), BACILLUS
   SPECIES; NOT ANTHRACIS
   - neuro recommending MRI (not urgent)
   - pulled out CVL
   Allergies:
   Peanut
   Unknown;
   Sulfur
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-4-21**] 08:17 PM
   Metronidazole - [**2123-4-22**] 12:30 AM
   Cefipime - [**2123-4-22**] 03:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2123-4-22**] 12:15 AM
   Heparin Sodium - [**2123-4-22**] 12:15 AM
   Morphine Sulfate - [**2123-4-22**] 01:00 AM
   Furosemide (Lasix) - [**2123-4-22**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-22**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 96 (91 - 111) bpm
   BP: 95/67(73) {93/61(69) - 156/83(100)} mmHg
   RR: 22 (18 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.3 kg (admission): 105 kg
   Height: 72 Inch
    CVP: 3 (0 - 29)mmHg
   Total In:
                                                                  1,886 mL
                                                                    716 mL
   PO:
                                                                    420 mL
   TF:
   IVF:
                                                                  1,886 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,460 mL
   Urine:
                                                                  1,970 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                   -744 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (310 - 416) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.54/34/87.[**Numeric Identifier 7**]/33/6
   Ve: 5 L/min
   PaO2 / FiO2: 110
   Physical Examination
   GEN: Alert, mildy agitated. Oriented to person and place. Disoriented
   to year. Asks for his mother, who passed away several months ago.
   CV: RRR, No m/r/g appreciated.
   RESP: Some crackles in the lower lung fields bilaterally.
   ABD: S/NT/ND; BS present
   EXT: No significant pitting LE edema noted.
   Labs / Radiology
   215 K/uL
   13.3 g/dL
   104 mg/dL
   1.2 mg/dL
   33 mEq/L
   2.9 mEq/L
   27 mg/dL
   99 mEq/L
   141 mEq/L
   39.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2123-4-19**]  03:25 PM
                             [**2123-4-20**]  12:56 AM
                             [**2123-4-20**]  01:56 PM
                             [**2123-4-20**]  04:56 PM
                             [**2123-4-21**]  01:11 AM
                             [**2123-4-21**]  03:14 AM
                             [**2123-4-21**]  09:22 AM
                             [**2123-4-21**]  04:15 PM
                             [**2123-4-21**]  11:35 PM
                             [**2123-4-22**]  05:10 AM
   WBC
   15.8
   15.4
   13.6
   Hct
   42.1
   40.8
   39.8
   Plt
   222
   197
   215
   Cr
   1.4
   1.4
   1.2
   1.2
   TropT
   5.22
   TCO2
   20
   30
   28
   29
   29
   30
   Glucose
   102
   99
   111
   104
   Other labs: PT / PTT / INR:15.1/63.0/1.3, CK / CKMB /
   Troponin-T:1220/50/5.22, ALT / AST:74/39, Alk Phos / T Bili:77/2.1,
   Amylase / Lipase:/18, Differential-Neuts:87.1 %, Lymph:7.0 %, Mono:5.4
   %, Eos:0.3 %, Fibrinogen:637 mg/dL, Lactic Acid:1.8 mmol/L, LDH:855
   IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Microbiology: RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         BACILLUS SPECIES; NOT ANTHRACIS.    SPARSE GROWTH.
   Radiology: CXR [**4-21**] PM
   Assessment and Plan
   51 y/o male with hx of cholecystecomy/psoriasis who suffered STEMI in
   field with VF arrest found to have TO LAD, s/p reperfusion with BMS to
   LAD.
   # Respiratory distress: Likely pneumonia ?aspiration or VAP. Positive
   sputum culture as above. There is also a component of anxiety/agitation
   related to the patient
s episodes of respiratory distress as well.
   - Cont current abx: vanc, cefepime, flagyl
   - Vanc dose increased as per pharm recs; will check level with AM labs
   tomorrow
   - Ipratropium neb PRN
   - I/O goal negative 1 L for the day
   - Trend ABG
   - F/u blood cx
   - Consider resuming BiPAP if patient deteriorates.
   - Treat agitation as below.
   .
   # Coronaries: STEMI with VF arrest. Found to have total occlusion of
   LAD on cath. s/p BMS. S/p cooling protocol.
   - Continue aspirin, clopidogrel, statin, metoprolol, lisinopril.
   - Continue to monitor for any recurrence of chest pain
   .
   # Pump: Echo post cooling protocol reveals LVEF 20-25% with global
   hypokinesis. Currently BP stable without pressors or dilators. Started
   him on metoprolol 25 TID for BP, heparin and coumadin for LV
   hypokinesis.
   - Continue Coumadin with heparin bridge for thromboembolism prevention
   - Follow coags
   .
   # Elevated LFT
s: Pt with elevated LFT
s noted on lab work. Elevated
   AST, ALT, and LDH likely related to recent MI. However, etiology of
   elevated T.Bili not entirely clear.
   - continue to trend
   .
   # Rhythm: V fib arrested in field. Currently in sinus rhythm.
   - Cont metoprolol.
   - continue telemetry.
   .
   # Agitation: As above, agitation likely playing a role in patient
   episodes of respiratory distress.
   - continue haldol PRN
   - keep patient oriented
   .
   # Neuro: Mental status seems to be improving. Pt more oriented this
   morning. Neuro recommends to give 2 weeks to determine prognosis of
   anterograde amnesia.
   - Neuro recs MRI brain with DWI or ADC when pt is stable.
   - continue to monitor neuro status
   ICU Care
   Nutrition: Regular; Cardiac/Heart healthy
   Glycemic Control:  Regular insulin sliding scale
   Lines: 1x peripheral
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:
   - sister and HCP [**Name (NI) 12106**] [**Telephone/Fax (1) 12107**]
   - best friend [**Name (NI) **] [**0-0-**] (home)
   - cousin [**Name (NI) 107**] [**Name (NI) 12108**] [**Telephone/Fax (1) 12109**]
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On [**2123-4-22**] I saw, examined and was physically present with the resident
   / fellow for the key portions of the services provided. I agree with
   the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Last Name (NamePattern1) 4235**], MD
   on:[**2123-4-22**] 19:04 ------

2123-04-23 06:25:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2123-4-22**] 12:30 PM
   -d/c'ed Foley
   -d/c'ed insulin sliding scale
   -PICC placed. Initially in right atrium. Pulled back 7 cm.
   -changed triamcinolone to betamethasone
   -stopped vancomycin and flagyl
   -called micro lab: will try to speciate GNRs on sputum culture
   -3 p.m., noted to be in worse respiratory discuss, satting 90% on 100%
   NRB. Had new rales on exam. Ordered Lasix 40 mg IV.
   -6 p.m. ABG 7.51/41/61. Spoke with respiratory therapy and initiated
   Bipap.
   -9 p.m. ABG 7.51/43/149 on Bipap.
   -neuro recs: [**Month (only) 8**] take weeks to months for memory to improve and deficit
   may persist. MRI could be helpful but does not necessarily need to be
   done as inpatient. f/u with Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2728**] as outpatient [**Telephone/Fax (1) 12196**]
   Allergies:
   Peanut
   Unknown;
   Sulfur
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-4-21**] 08:17 PM
   Metronidazole - [**2123-4-22**] 01:39 PM
   Cefipime - [**2123-4-23**] 05:44 AM
   Infusions:
   Heparin Sodium - 2,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2123-4-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-23**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 91 (88 - 105) bpm
   BP: 82/35(69) {82/35(63) - 146/101(112)} mmHg
   RR: 25 (0 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.3 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  2,898 mL
                                                                    484 mL
   PO:
                                                                  1,460 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    938 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                    560 mL
   Urine:
                                                                  2,980 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -82 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 540 (540 - 540) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 6 cmH2O
   FiO2: 95%
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.49/43/106/31/8
   Ve: 20.4 L/min
   PaO2 / FiO2: 106
   Physical Examination
   GEN: Alert, mildy agitated. Oriented to person and place. Disoriented
   to year. Asks for his mother, who passed away several months ago.
   CV: RRR, No m/r/g appreciated.
   RESP: Some crackles in the lower lung fields bilaterally.
   ABD: S/NT/ND; BS present
   EXT: No significant pitting LE edema noted.
   Labs / Radiology
   239 K/uL
   13.0 g/dL
   100 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.4 mEq/L
   31 mg/dL
   100 mEq/L
   139 mEq/L
   37.8 %
   12.3 K/uL
        [image002.jpg]
                             [**2123-4-21**]  03:14 AM
                             [**2123-4-21**]  09:22 AM
                             [**2123-4-21**]  04:15 PM
                             [**2123-4-21**]  11:35 PM
                             [**2123-4-22**]  05:10 AM
                             [**2123-4-22**]  06:18 PM
                             [**2123-4-22**]  09:03 PM
                             [**2123-4-23**]  01:15 AM
                             [**2123-4-23**]  03:50 AM
                             [**2123-4-23**]  06:14 AM
   WBC
   15.4
   13.6
   12.3
   Hct
   40.8
   39.8
   37.8
   Plt
   197
   215
   239
   Cr
   1.2
   1.2
   1.2
   TCO2
   29
   29
   30
   34
   36
   34
   34
   Glucose
   111
   104
   100
   Other labs: PT / PTT / INR:18.3/150.0/1.6, CK / CKMB /
   Troponin-T:1220/50/5.22, ALT / AST:48/27, Alk Phos / T Bili:75/1.2,
   Amylase / Lipase:/18, Differential-Neuts:77.4 %, Lymph:13.2 %, Mono:7.9
   %, Eos:0.9 %, Fibrinogen:637 mg/dL, Lactic Acid:1.7 mmol/L, LDH:760
   IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   51 y/o male with hx of cholecystecomy/psoriasis who suffered STEMI in
   field with VF arrest found to have TO LAD, s/p reperfusion with BMS to
   LAD.
   # Respiratory distress: Likely pneumonia ?aspiration or VAP. Positive
   sputum culture as above. There is also a component of anxiety/agitation
   related to the patient
s episodes of respiratory distress as well.
   - Cont current abx: vanc, cefepime, flagyl
   - Vanc dose increased as per pharm recs; will check level with AM labs
   tomorrow
   - Ipratropium neb PRN
   - I/O goal negative 1 L for the day
   - Trend ABG
   - F/u blood cx
   - Consider resuming BiPAP if patient deteriorates.
   - Treat agitation as below.
   .
   # Coronaries: STEMI with VF arrest. Found to have total occlusion of
   LAD on cath. s/p BMS. S/p cooling protocol.
   - Continue aspirin, clopidogrel, statin, metoprolol, lisinopril.
   - Continue to monitor for any recurrence of chest pain
   .
   # Pump: Echo post cooling protocol reveals LVEF 20-25% with global
   hypokinesis. Currently BP stable without pressors or dilators. Started
   him on metoprolol 25 TID for BP, heparin and coumadin for LV
   hypokinesis.
   - Continue Coumadin with heparin bridge for thromboembolism prevention
   - Follow coags
   .
   # Elevated LFT
s: Pt with elevated LFT
s noted on lab work. Elevated
   AST, ALT, and LDH likely related to recent MI. However, etiology of
   elevated T.Bili not entirely clear.
   - continue to trend
   .
   # Rhythm: V fib arrested in field. Currently in sinus rhythm.
   - Cont metoprolol.
   - continue telemetry.
   .
   # Agitation: As above, agitation likely playing a role in patient
   episodes of respiratory distress.
   - continue haldol PRN
   - keep patient oriented
   .
   # Neuro: Mental status seems to be improving. Pt more oriented this
   morning. Neuro recommends to give 2 weeks to determine prognosis of
   anterograde amnesia.
   - Neuro recs MRI brain with DWI or ADC when pt is stable.
   - continue to monitor neuro status
   ICU Care
   Nutrition: Regular; Cardiac/Heart healthy
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2123-4-22**] 07:00 AM
   PICC Line - [**2123-4-22**] 12:30 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   - sister and HCP [**Name (NI) 12106**] [**Telephone/Fax (1) 12107**]
   - best friend [**Name (NI) **] [**0-0-**] (home)
   - cousin [**Name (NI) 107**] [**Name (NI) 12108**] [**Telephone/Fax (1) 12109**]
   Code status: Full code
   Disposition: CCU for now

2123-04-24 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -continued cefepime for pneumonia
   -decreased antihypertensives to lowest dose because of hypotension
   -INR now therapeutic so heparin drip stopped
   Allergies:
   Peanut
   Unknown;
   Sulfur
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-4-21**] 08:17 PM
   Metronidazole - [**2123-4-22**] 01:39 PM
   Cefipime - [**2123-4-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-24**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 89 (82 - 95) bpm
   BP: 97/61(70) {80/39(49) - 115/79(87)} mmHg
   RR: 22 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.3 kg (admission): 105 kg
   Height: 72 Inch
             Total In:
                                                                  2,033 mL
                                                                    350 mL
   PO:
                                                                  1,390 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    643 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    450 mL
   Urine:
                                                                  1,560 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    473 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   GEN: A+Ox3; NAD
   CV: RRR, No m/r/g appreciated.
   RESP: Scattered wheezes; no crackles noted.
   ABD: S/NT/ND; BS present
   EXT: No pitting LE edema noted. No calf pain.
   Labs / Radiology
   238 K/uL
   12.7 g/dL
   94 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.7 mEq/L
   31 mg/dL
   104 mEq/L
   142 mEq/L
   39.7 %
   12.4 K/uL
        [image002.jpg]
                             [**2123-4-21**]  04:15 PM
                             [**2123-4-21**]  11:35 PM
                             [**2123-4-22**]  05:10 AM
                             [**2123-4-22**]  06:18 PM
                             [**2123-4-22**]  09:03 PM
                             [**2123-4-23**]  01:15 AM
                             [**2123-4-23**]  03:50 AM
                             [**2123-4-23**]  06:14 AM
                             [**2123-4-23**]  12:11 PM
                             [**2123-4-24**]  05:17 AM
   WBC
   13.6
   12.3
   12.4
   Hct
   39.8
   37.8
   39.7
   Plt
   [**Telephone/Fax (3) 12218**]
   Cr
   1.2
   1.2
   1.1
   1.1
   TCO2
   29
   30
   34
   36
   34
   34
   Glucose
   104
   100
   113
   94
   Other labs: PT / PTT / INR:25.5/33.6/2.5, CK / CKMB /
   Troponin-T:1220/50/5.22, ALT / AST:48/27, Alk Phos / T Bili:75/1.2,
   Amylase / Lipase:/18, Differential-Neuts:77.4 %, Lymph:13.2 %, Mono:7.9
   %, Eos:0.9 %, Fibrinogen:637 mg/dL, Lactic Acid:1.7 mmol/L, LDH:760
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   51 y/o male with hx of cholecystectomy/psoriasis who suffered STEMI in
   field with VF arrest found to have TO LAD, s/p reperfusion with BMS to
   LAD.
   # Respiratory distress: Likely due to pneumonia/aspiration, with
   possible contribution from congestive heart failure. Improved this a.m.
   CXR consistent with LLL pneumonia, and sputum growing MSSA as well as
   gram negatives.
   - continue cefepime; vanc and flagyl d/c
ed yesterday
   - continue ipratropium nebs
   - continue to monitor I/O
s today; no diuresis at this point
   - f/u culture data
   .
   # STEMI with VF arrest. Found to have total occlusion of LAD on cath.
   s/p BMS. S/p cooling protocol. Currently in sinus rhythm.
   - Continue aspirin, clopidogrel, statin, metoprolol, lisinopril.
   - Continue to monitor for any recurrence of chest pain
   - continue telemetry
   .
   # Pump: Echo post cooling protocol reveals LVEF 20-25% with global
   hypokinesis. Started him on metoprolol 25 TID for BP, heparin and
   coumadin for LV hypokinesis. INR now therapeutic; heparin gtt stopped.
   - continue coumadin
   - Follow coags
   .
   # Hypotension: Likely related to antihypertensive regimen. Pt does not
   appear septic on exam.
   - Holding diuresis for now
   - Hold parameters on BP meds
   .
   # Elevated LFT
s: Pt with elevated LFT
s. Trending down. Likely related
   to recent MI. Will need further evaluation (inpatieint vs. outpatient)
   if LFT abnormalities fail to resolve completely.
   - continue to trend
   .
   # Neuro: Mental status seems to be improving. Per neuro recs, it may
   take weeks to months for mental status to clear and there may be some
   residual defecits.
   - consider MRI brain (inpt vs. outpt)
   - outpatient neuro f/u
   - haldol for agitation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-4-22**] 07:00 AM
   PICC Line - [**2123-4-22**] 12:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**First Name (STitle) 7300**]
   I would add the following remarks:
   History
   Making good recovery.
   No chest pain or shortness of breath.  Pneumonia improving.
   Medical Decision Making
   Post MI care with beta blocker-ACE-diuretics titrated to hypotension
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2123-4-24**] 11:54 ------